US09421205B2
(g) tert-Butyl 4-(4-((4-((3-(2-methoxy-2-oxoethyl)pyridin-2-yl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I121)
A solution of methyl 2-(2-ethynylpyridin-3-yl)acetate (I120) (43.6 mg, 0.249 mmol) in dimethylformamide (2 mL) and triethylamine (107 μL, 0.765 mmol) were added to a mixture of tert-butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I45) (87.4 mg, 0.191 mmol), Pd(PPh3)2Cl2 (13 mg, 0.019 mmol), Cu(I)I (5.5 mg, 0.029 mmol) and triphenylphosphine (7.5 mg, 0.017 mmol) in dimethylformamide (2 mL). The reaction mixture was heated under microwave irradiation at 120° C. for 10 minutes. The cooled mixture was diluted with EtOAc and passed through a plug of celite, washing with ethyl acetate (100 mL). The solvent was removed under reduced pressure and the residue partitioned between EtOAc (70 mL) and water (50 mL). The layers separated and the aqueous layer extracted with EtOAc (2×50 mL). The combined organic extracts were washed with brine (70 mL) and dried over Na2SO4. After filtration the solvent was removed under reduced pressure to give a dark brown residue. The residue was purified by column chromatography on silica gel (0-40% EtOAc in petroleum benzine 40-60° C.) to yield the title compound (I121) (81.5 mg, 72%) as a brown viscous oil which was used without further purification.

reactant | methyl 2-(2-ethynylpyridin-3-yl)acetate | 0.249 mmol, 43.6 mg | C(#C)C1=NC=CC=C1CC(=O)OC | C10H9NO2
reactant | triethylamine | 0.765 mmol, 107 μL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.191 mmol, 87.4 mg | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C21H24ClF3N4O2
reactant | triphenylphosphine | 0.017 mmol, 7.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.019 mmol, 13 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-Butyl 4-(4-((4-((3-(2-methoxy-2-oxoethyl)pyridin-2-yl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 81.5 mg, 72% | COC(CC=1C(=NC=CC1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C31H32F3N5O4
